US07897607B2
5-choro-4-oxo-1-(1-propylbutyl)-1,4-dihydroquinoline-3-carbonitrile
(E)-2-(2,6-dichlorobenzoyl)-3-(1-propylbutylamino)acrylonitrile (0.020 g, 0.059 mmol) was dissolved in dioxane (2 mL). Sodium hydride (0.007 g, 0.18 mmol, 60% wt. dispersion in mineral oil) was added in one portion. Reaction was heated overnight at 100° C. Solution was cooled and quenched with MeOH and concentrated. Flash chromatography gave the desired product (0.007 g, 40%)

reactant | (E)-2-(2,6-dichlorobenzoyl)-3-(1-propylbutylamino)acrylonitrile | 0.059 mmol, 0.020 g | ClC1=C(C(=O)\C(\C#N)=C\NC(CCC)CCC)C(=CC=C1)Cl | C17H20Cl2N2O
reactant | Sodium hydride | 0.18 mmol, 0.007 g | [H-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 5-choro-4-oxo-1-(1-propylbutyl)-1,4-dihydroquinoline-3-carbonitrile | 0.007 g, 40% | ClC1=C2C(C(=CN(C2=CC=C1)C(CCC)CCC)C#N)=O | C17H19ClN2O
